US08377949B2
To a solution of (4,6-dimethyl-1,2-benzisothiazol-3-yl)-methanol (100 mg, 0.5 mmol) in CH2Cl2 (15 mL) are added PPh3 (200 mg, 0.78 mmol) and CBr4 (340 mg, 1 mmol) at room temperature. The solution is stirred at the same temperature for 1 hour. The solution is concentrated and the residue is purified by flash chromatography with 10% EtOAc in Hexane as the eluent to afford 3-bromomethyl-4,6-dimethyl-1,2-benzisothiazole (90 mg, 68%) as a white solid.

reactant | (4,6-dimethyl-1,2-benzisothiazol-3-yl)-methanol | 0.5 mmol, 100 mg | CC1=CC(=CC2=C1C(=NS2)CO)C | C10H11NOS
reactant | PPh3 | 0.78 mmol, 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 1 mmol, 340 mg | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-bromomethyl-4,6-dimethyl-1,2-benzisothiazole | 90 mg, 68% | BrCC1=NSC2=C1C(=CC(=C2)C)C | C10H10BrNS
